US03935191
3,3'-Bis(3-Dimethylamino-2-methylpropoxy)Benzil
To a dry, stirred suspension of 3,3'-dihydroxybenzil dithallium salt (20 g.) in toluene (250 ml.) and N,N-dimethylformamide (250 ml.) was added dropwise 104 ml. of a solution containing 48 g. of 3-dimethylamino-2-methylpropyl chloride in 500 ml. of toluene. The mixture was stirred and heated under reflux overnight. The resulting heavy white precipitate was removed and washed with toluene. The toluene solution and washings were evaporated to a syrup which was subjected to further evaporation using an oil pump vacuum. The syrup was dissolved in chloroform and applied to a column (48 × 5.2 cm) of a "dry column grade" alumina (Woelm) prepacked in chloroform. Elution was with chloroform and 500 ml. fractions (1 and 2) and 250 ml. (3-6) fractions were collected. Fractions 3-6 were pooled and evaporated to give 10.00 g. of syrup. To 7.55 g. of this material in ethanol (150 ml.) was added naphthalene-2-sulfonic acid (7.72 g.). The solution was warmed and decolorized. Evaporation and addition of seeds and ether gave the title product (9.88 g.) as the bis(2-naphthalenesulfonate) salt; m.p. 162-164°. Recrystallization with decolorization gave pure product; m.p. 164-166°.

reactant | 3,3'-dihydroxybenzil dithallium salt | 20 g | [Tl].[Tl].OC=1C=C(C=CC1)C(=O)C(=O)C1=CC(=CC=C1)O
reactant | 3-dimethylamino-2-methylpropyl chloride | CN(CC(CCl)C)C | C6H14ClN
reactant | naphthalene-2-sulfonic acid | 7.72 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3,3'-Bis(3-Dimethylamino-2-methylpropoxy)Benzil | 9.88 g | CN(CC(COC=1C=C(C=CC1)C(=O)C(=O)C1=CC(=CC=C1)OCC(CN(C)C)C)C)C | C26H36N2O4
